US04374843
A mixture of 0.38 g (1.4 mmol) of 2-bromo-1-(4-imidazoyl)ethanone hydrobromide in 10 ml of acetone was warmed until homogeneous, then 0.17 g (1.4 mmol) of amidinothiourea was added and the mixture was heated at reflux for 0.5 hour. The mixture was cooled and the white precipitate was collected, washed with ether, and dried, thereby affording 0.24 g (60%) of 2-guanidino-4-(4-imidazoyl)thiazole hydrobromide, mp 225° (dec). nmr (DMSO-d6) (δ): 8.20 (s, 1H); 8.0 (b, 4H); 7.77 (s, 1H); 7.36 (s, 1H); high resolution mass spectrum: calcd. C7H8N6S: for 208.0531; found: 208.0517; calcd. for C7H8N6S.HBr.H2O: C, 27.37; H, 3.60; N, 27.36; found: C, 27.23; H, 3.57; N, 27.64.

reactant | 2-bromo-1-(4-imidazoyl)ethanone hydrobromide | 1.4 mmol, 0.38 g | Br.BrCC(=O)C(=O)C=1N=CNC1
reactant | amidinothiourea | 1.4 mmol, 0.17 g | C(N)(=N)NC(=S)N | C2H6N4S
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-guanidino-4-(4-imidazoyl)thiazole hydrobromide | 0.24 g, 60% | Br.N(C(=N)N)C=1SC=C(N1)C(=O)C=1N=CNC1 | InChI=1S/C8H8N6OS.BrH/c9-7(10)14-8-13-5(2-16-8)6(15)4-1-11-3-12-4;/h1-3H,(H,11,12)(H4,9,10,13,14);1H
